* F:\Dropbox\GitHub\quiz2matlab\sims\LTspice\TBJ01bCAop.asc
Rb N001 0 {Rb}
Rc N002 0 {Rc}
Vcc cc 0 {Vcc}
Q1 N002 N001 cc 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Adriano Ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vcc=15 Rb=100k Rc=120 RL=100k Vipk=0.01m fi=10k
.op
.model TBJ NPN(IS=15F BF=100 VAF=150)
.backanno
.end
